US04129436
A mixture of 26.9 g of 4-(4-tert-butylphenethyloxy)aniline, 13 g of N-methoxy-N-methylcarbamyl chloride, 10 ml of pyridine and 300 ml of toluene is heated under reflux for 7 hours. Thereafter, water is added to dissolve pyridinium chloride, and the separated toluene layer is washed with dilute hydrochloric acid, thoroughly washed with water and dried over anhydrous sodium sulfate. The solvent is then removed under reduced pressure, and the crude crystals obtained are repeatedly recrystallized from ethanol to obtain 9.3 g of N'-[4-(4-tert-butylphenethyloxy)phenyl]-N-methoxy-N-methylurea as white needles, M.P. 14°-15° C.

reactant | 4-(4-tert-butylphenethyloxy)aniline | 26.9 g | C(C)(C)(C)C1=CC=C(CCOC2=CC=C(N)C=C2)C=C1 | C18H23NO
reactant | N-methoxy-N-methylcarbamyl chloride | 13 g | CON(C(=O)Cl)C | C3H6ClNO2
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | pyridinium chloride | [Cl-].[NH+]1=CC=CC=C1
solvent | water | O | H2O
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | N'-[4-(4-tert-butylphenethyloxy)phenyl]-N-methoxy-N-methylurea | 9.3 g | C(C)(C)(C)C1=CC=C(CCOC2=CC=C(C=C2)NC(N(C)OC)=O)C=C1 | C21H28N2O3
